US08242175B2
A mixture of 4-formylcinnamic acid (189 mg, 1.077 mmol), 1-[2-(4-methyl-piperazin-1-ylmethyl)-phenyl]-ethanone (obtained as described in Preparation 11, 250 mg, 1.077 mmol) and 1.7 M KOH (1.26 ml) in EtOH (5 ml) and H2O (5 ml) was stirred at room temperature overnight and then acidified with 10% HCl. The resulting precipitate was filtered to give 350 mg of (E)-3-(4-{(E)-3-[2-(4-methyl-piperazin-1-ylmethyl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid bis-hydrochloride.

reactant | 4-formylcinnamic acid | 1.077 mmol, 189 mg | C(=O)C1=CC=C(C=CC(=O)O)C=C1 | C10H8O3
reactant | 1-[2-(4-methyl-piperazin-1-ylmethyl)-phenyl]-ethanone | 1.077 mmol, 250 mg | CN1CCN(CC1)CC1=C(C=CC=C1)C(C)=O | C14H20N2O
reactant | KOH | 1.7 M, 1.26 ml | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | EtOH | 5 ml | CCO | C2H6O
solvent | H2O | 5 ml | O | H2O
product | (E)-3-(4-{(E)-3-[2-(4-methyl-piperazin-1-ylmethyl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid bis-hydrochloride | 350 mg | Cl.Cl.CN1CCN(CC1)CC1=C(C=CC=C1)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)O)=O | InChI=1S/C24H26N2O3.2ClH/c1-25-14-16-26(17-15-25)18-21-4-2-3-5-22(21)23(27)12-10-19-6-8-20(9-7-19)11-13-24(28)29;;/h2-13H,14-18H2,1H3,(H,28,29);2*1H/b12-10+,13-11+;;
